US07482339B2
To a diethyl ether (5 mL) solution of 3-[(methylthio)thiocarbonyl]-2-(4-dimethylamino-1-naphthylimino)-5,5-diisopropyl-1,3-thiazine (I-43: 0.15 g), was added 4N dioxane solution of hydrochloric acid (0.23 mL), and the reaction mixtuer was stirred at room temperature for 0.5 h. The resulting crystals were filterd to obtain 3-[(methylthio)thiocarbonyl]-2-(4-dimethylamino-1-naphthylimino)-5,5-diisopropyl-1,3-thiazine hydrochloric acid salt (I-152: 0.14 g, 94%) as yellow crystals.

reactant | diethyl ether | 5 mL | C(C)OCC | C4H10O
reactant | 3-[(methylthio)thiocarbonyl]-2-(4-dimethylamino-1-naphthylimino)-5,5-diisopropyl-1,3-thiazine | CSC(=S)N1C(SCC(C1)(C(C)C)C(C)C)=NC1=CC=C(C2=CC=CC=C12)N(C)C | C24H33N3S3
reactant | hydrochloric acid | 0.23 mL | Cl | ClH
solvent | dioxane | 4N | O1CCOCC1 | C4H8O2
product | 3-[(methylthio)thiocarbonyl]-2-(4-dimethylamino-1-naphthylimino)-5,5-diisopropyl-1,3-thiazine hydrochloric acid salt | 0.14 g, 94% | Cl.CSC(=S)N1C(SCC(C1)(C(C)C)C(C)C)=NC1=CC=C(C2=CC=CC=C12)N(C)C | InChI=1S/C24H33N3S3.ClH/c1-16(2)24(17(3)4)14-27(23(28)29-7)22(30-15-24)25-20-12-13-21(26(5)6)19-11-9-8-10-18(19)20;/h8-13,16-17H,14-15H2,1-7H3;1H
